US04649207
To a solution of 4.62g (0.1 mole) 2,2-bis(4-bromophenyl)hexafluoropropane in 75 ml of anhydrous tetrahydrofuran was added dropwise 28 ml (0.4 moles) of a 1.4 molar solution of n-butyllithium in hexane while the reaction mixture was cooled in a dry ice-acetone slush. The reaction mixture was stirred for one half hour at -78° C. A dropwise addition of chlorotrimethylsilane (5 ml, 0.04 moles) was then made to the reaction mixture at -78° C. The stirring slurry was allowed to come to ambient temperature over 16 hours. To the reaction mixture was added 100 ml hexane. The organic layer was washed with 2×150 ml saturated sodium chloride solution and 2×150 ml water. The organic layer was dried, filtered, and concentrated to yield the white crystalline product 2,2-bis(4-trimethylsilylphenyl)hexafluoropropane.

reactant | 2,2-bis(4-bromophenyl)hexafluoropropane | 0.1 mole, 4.62g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)Br | C15H8Br2F6
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | chlorotrimethylsilane | 0.04 moles, 5 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 2,2-bis(4-trimethylsilylphenyl)hexafluoropropane | C[Si](C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)[Si](C)(C)C)(C)C | C21H26F6Si2
